US08486963B2
5-Chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid methyl ester
To a solution of 7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid methyl ester (576 mg, 1.40 mmol) in DCM (10 mL) was added NCS (206 mg, 1.54 mmol) and the reaction heated at reflux for 3 hours. More NCS (37 mg, 0.28 mmol) was added and the reaction heated at reflux for 2 hours. The reaction mixture was diluted with water and the product extracted with DCM (3×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-40% ethylacetate in cyclohexane) to yield the title compound as an off-white solid (300 mg, 48%). LCMS (Method B): RT=4.11 min, M+H+=446.

reactant | 7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid methyl ester | 1.40 mmol, 576 mg | COC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F | C15H11FIN3O2
reactant | NCS | 1.54 mmol, 206 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | NCS | 0.28 mmol, 37 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-Chloro-7-(2-fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid methyl ester | 300 mg, 48% | COC(=O)C=1C(=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F)Cl | C15H10ClFIN3O2
